Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
gabapentin / Lyrica
 
Attending: ___
 
Chief Complaint:
nausea, vomiting, abdomnial pain
 
Major Surgical or Invasive Procedure:
nasogastric tube placement
 
History of Present Illness:
Ms. ___ is a ___ with recurrent stage IV 
endometrial cancer, s/p TAH/BSO in ___, presenting with nausea, 
vomiting and abdominal pain, concerning for recurrent SBO. She 
reports has had increasing abdominal pain and nausea since 
yesterday afternoon. Reports last bowel movement yesterday
morning, minimal to no flatus since that time. Developed 
worsening abdominal pain, distention yesterday afternoon, then 
became nauseous and had multiple episodes of emesis. Denies any 
blood in stool or emesis

Patient with three prior recent admissions for small bowel 
obstruction most recent on ___ and was managed conservatively 
with NGT and discharged home on ___. Prior admission that was 
in ___ related to peritoneal metastases & ascites which was 
managed with NG tube and ascites was treated with Pleurex
catheter.  Resolved without other surgical management. Pleurex 
catheter remains in place. Last accessed yesterday by ___ with 
removal of approx 700cc of ascites per patient.  Reports usually 
accessed three times a week with removal  of 300-600cc fluid. 

Pt reports with last chemo administered ___, however per pt, 
chemo stopped due to continued progression of disease. 
 
Denies fever, chills, dysuria, frequency, weight loss/gain, 
diarrhea, chest pain, shortness of breath, lower extremity 
swelling, calf pain. 

 
Past Medical History:
Oncologic History:
- ___: endometrial biopsy with adenocarcinoma
- ___: TAH-BSO with staging laparotomy -> stage IVb
- ___: started ___, complicated by neuropathy
- ___: anterior vaginal wall nodule with recurrence
- ___: pelvic radiotherapy with avastin + 
interstitial
brachytherapy
- ___: PET-CT with progressive disease in anterior abdominal
wall
- ___: ___
- ___: started megace then tamoxifen
- ___: PET with increased anterior abdominal wall nodules ->
started everolimus, but CA-125 increased
- ___: ___
- ___: PET with increased peritoneal carcinomatosis ->
started taxotere
- ___: PET with stable disease
- ___: partial SBO, started gemcitabine
- ___: PET with progression -> phase I trial kevetrin at ___
- ___: Progression on CT, admitted for SBO ___: last chemo administered, stopped as continued
progression of disease

Obstetric History: G0

Gynecologic History:
- LMP ___
- no h/o STIs

Past Medical History:
- Stage IV endometrial cancer
- arthritis
- hypertension
- T2DM
- neuropathy
- trigger finger
- depression
- psoriasis
- fatty liver
- GERD

Past Surgical History:
- ex-lap with TAH, BSO, debulking (___) 

 
Social History:
___
Family History:
mom with myeloproliferative d/o; PGM had cholangiocarcinoma; MGM 
had breast cancer in her ___ maternal aunt had breast cancer 
then uterine cancer then MDS which transformed to leukemia. 
Paternal aunt's son had renal cell cancer ___. Brother ___ had 
large colon polyp- apparently had MSI/IHC testing of this for 
HNPCC which was reportedly negative; no further testing was 
recommended 
 
Physical Exam:
On day of discharge:
Afebrile, vitals stable
No acute distress
CV: regular rate and rhythm
Pulm: clear to auscultation bilaterally
Abd: + bowel sounds, soft, appropriately tender, mass palpated 
around umblicus, 
no rebound/guarding
___: nontender, nonedematous

 
Pertinent Results:
___ 01:00PM BLOOD WBC-8.3 RBC-4.01* Hgb-10.4* Hct-33.2* 
MCV-83 MCH-25.9* MCHC-31.2 RDW-18.0* Plt ___
___ 05:19AM BLOOD WBC-7.8 RBC-3.72* Hgb-9.7* Hct-30.4* 
MCV-82 MCH-26.0* MCHC-31.9 RDW-17.8* Plt ___
___ 05:28AM BLOOD WBC-6.3 RBC-3.32* Hgb-8.9* Hct-27.5* 
MCV-83 MCH-26.8* MCHC-32.3 RDW-18.0* Plt ___
___ 05:28AM BLOOD Neuts-75.7* Lymphs-17.1* Monos-4.9 
Eos-2.1 Baso-0.2
___ 05:19AM BLOOD Neuts-72.5* ___ Monos-6.8 Eos-1.2 
Baso-0.2
___ 04:37PM BLOOD Neuts-77.1* Lymphs-16.6* Monos-5.2 
Eos-0.9 Baso-0.2
___ 01:00PM BLOOD Glucose-115* UreaN-6 Creat-0.7 Na-136 
K-4.9 Cl-98 HCO3-30 AnGap-13
___ 05:19AM BLOOD Glucose-127* UreaN-6 Creat-0.6 Na-138 
K-4.9 Cl-102 HCO3-28 AnGap-13
___ 05:28AM BLOOD Glucose-102* UreaN-6 Creat-0.6 Na-137 
K-4.7 Cl-102 HCO3-29 AnGap-11
___ 09:45PM BLOOD ALT-48* AST-42* AlkPhos-298* TotBili-0.4
___ 01:00PM BLOOD Calcium-9.3 Phos-4.6* Mg-1.7
___ 05:19AM BLOOD Calcium-8.3* Phos-4.0 Mg-1.6
___ 05:28AM BLOOD Calcium-8.4 Phos-3.7 Mg-1.8
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after presenting with small bowel obstruction. She was 
immediately made NPO with maintenance IVF. She had NG tube 
placement. 
.
On HD#1, her NG tube output was noted to be decreasing and 
patient had flatus. She had drainage from abdomnial pleurex of 
700cc. Her NG tube was clamped. Patient was noted to have temp 
101.1 and had CXR which showed LLL pneumonia. She was then 
started on IV clinda 600mg q8h. She was transitioned to PO 
clindamycin 450mg TID for 10 days on ___. SW saw the patient 
during this visit who thought she was coping well. 
.
On HD#2, patient's diet was initially advanced to sips and her 
NG tube was removed. Patient tolerated this and she was advanced 
to clears. Her diet was then advanced without difficulty to 
regular diet and she tolerated it well. 
.
On HD#3, GI was consulted on whether patient would be a 
candidate for PEG tube. She had drainage from abdomnial pleurex 
of 750cc.
.
On HD#4, palliative recommended ___ consult for home safety 
evaluation. ___ recommended that patient had no acute ___ needs. 
Patient decided patient decided to go home with hospice care 
during the palliative care visit.  Per GI, patient was not a 
candidate for PEG tube due to the ascites which increases 
infection and leakage rate of tube. In addition, they also 
thought that patient's low albumin would cause poor wound 
healing. 
.
By HD# 5, she was tolerating a regular diet, voiding 
spontaneously, ambulating and having bowel movements. She was 
then discharged home with hospice in stable condition with 
outpatient follow-up scheduled.

 
Medications on Admission:
amytriptyline 125mg QD, lasix 80mg ___, metformin 1000mg 
daily, omeprazole 20mg daily

 
Discharge Medications:
1. Lorazepam 0.5 mg IV Q4H:PRN pain, anxiety 
2. Amitriptyline 125 mg PO QHS 
3. Clindamycin 450 mg PO Q8H 
RX *clindamycin HCl 150 mg 3 capsule(s) by mouth three times a 
day Disp #*72 Capsule Refills:*0
4. Duloxetine 20 mg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO DAILY 
6. Omeprazole 20 mg PO DAILY 
7. Pyridoxine 100 mg PO DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
small bowel obstruction
aspiration pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
.
You were admitted to the gynecologic oncology service after 
presenting with a small bowel obstruction. You have recovered 
well and are now able to eat a regular diet. You were also found 
to have an aspiration pneumonia and were started on antibiotics. 
You will continue antibiotics for 10 days. The team feels that 
you are safe to be discharged home. Please follow these 
instructions: 
. 
* Take your medications as prescribed. 
* Do not drive while taking narcotics. 
* Do not combine narcotic and sedative medications or alcohol. 
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs. 
* You may eat a regular diet.
* It is safe to walk up stairs. 
.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 

 
Followup Instructions:
___